US05700796
10-[[6-[(2-dimethylaminoethyl)amino]-3-pyridinyl]carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c]-[1.4]benzodiazepine
A mixture of 10-[[6-chloro-3-pyridinyl]-carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (3.2 g), K2CO3 (5 g) and the 2-dimethylaminoethylamine (5 ml) is heated in dimethylsulfoxide (80 ml) for 6 hours at 100° C. (with stirring). The reaction mixture is quenched with water and the solid which separates, is filtered off and washed well with water. Examination of the TLC (CHCl3 :MeOH; 3:1) showed the products to be sufficiently pure to be used for further reactions without purification. Yield 3.2 g, 85%, mass spectrum (CI) 376 (M+1).

reactant | 10-[[6-chloro-3-pyridinyl]-carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 3.2 g | ClC1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C18H14ClN3O
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-dimethylaminoethylamine | 5 ml | CN(CCN)C | C4H12N2
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 10-[[6-[(2-dimethylaminoethyl)amino]-3-pyridinyl]carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c]-[1.4]benzodiazepine | CN(CCNC1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C | C22H25N5O
